US07989445B2
6-(4-chlorophenyl)-3-(2-{4-[(2-oxopyrrolidin-1-yl)methyl]phenyl}ethyl)thieno[3,2-d]pyrimidin-4(3H)-one
A mixture of methyl 5-(4-chlorophenyl)-3-(dimethylaminomethyleneamino)thiophene-2-carboxylate (0.1 g), 1-[4-(2-aminoethyl)benzyl]pyrrolidin-2-one hydrochloride (87 mg), N,N-diisopropylethylamine (44 mg) and ethanol (2 ml) was stirred at 70° C. for 3 hr. The reaction mixture was allowed to cool, ethyl acetate was added, and the precipitate was collected by filtration to give the title compound (109 mg) as a colorless powder.

reactant | methyl 5-(4-chlorophenyl)-3-(dimethylaminomethyleneamino)thiophene-2-carboxylate | 0.1 g | ClC1=CC=C(C=C1)C1=CC(=C(S1)C(=O)OC)N=CN(C)C | C15H15ClN2O2S
reactant | 1-[4-(2-aminoethyl)benzyl]pyrrolidin-2-one hydrochloride | 87 mg | Cl.NCCC1=CC=C(CN2C(CCC2)=O)C=C1
reactant | N,N-diisopropylethylamine | 44 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethanol | 2 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(4-chlorophenyl)-3-(2-{4-[(2-oxopyrrolidin-1-yl)methyl]phenyl}ethyl)thieno[3,2-d]pyrimidin-4(3H)-one | 109 mg | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CCC1=CC=C(C=C1)CN1C(CCC1)=O | C25H22ClN3O2S
